US06831074B2
Diethyl 1-(5-ethoxy-5-oxopentyl)-1H-pyrazole-3,5-dicarboxylate
Diethyl 3,5-pyrazoledicarboxylate (50 g, 0.236 mol) was dissolved in acetonitrile (500 ml) under a nitrogen atmosphere. Potassium carbonate (33 g, 0.236 mol) was added followed by ethyl 5-bromovalerate (37.7 ml, 0.235 mol) and the mixture heated under reflux for 2 hours. The solvent was removed in vacuo leaving a clear oil which was partitioned between ethyl acetate and water. The organic phase was separated and the aqueous phase further extracted with ethyl acetate (×2). The organic extracts were combined, dried (MgSO4), filtered and concentrated under reduced pressure to give 75 g of the title product.

reactant | Diethyl 3,5-pyrazoledicarboxylate | 0.236 mol, 50 g | N1N=C(C=C1C(=O)OCC)C(=O)OCC | C9H12N2O4
reactant | Potassium carbonate | 0.236 mol, 33 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 5-bromovalerate | 0.235 mol, 37.7 ml | BrCCCCC(=O)OCC | C7H13BrO2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | Diethyl 1-(5-ethoxy-5-oxopentyl)-1H-pyrazole-3,5-dicarboxylate | 75 g | C(C)OC(CCCCN1N=C(C=C1C(=O)OCC)C(=O)OCC)=O | C16H24N2O6
